US05280032
To a mixture of 20 g of 1-(4-benzyloxyphenyl)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethanol and 40 ml of methylene chloride containing 8.2 g of 3,4-dihydro-2H-pyrane was added 2.3 g of pyridinium p-toluenesulfonate at room temperature. The resulting mixture was refluxed for 30 minutes. The reaction mixture was cooled and added to a mixture of 100 ml of ice water and 100 ml of methylene chloride. The organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 18.6 g of light yellow oily 1-(4-benzyloxyphenyl)-1-(2-tetrahydropyranyloxy)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethane.

reactant | 1-(4-benzyloxyphenyl)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethanol | 20 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(COCCOS(=O)(=O)C1=CC=C(C=C1)C)O | C24H26O6S
reactant | 3,4-dihydro-2H-pyrane | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml, 8.2 g | C(Cl)Cl | CH2Cl2
product | 1-(4-benzyloxyphenyl)-1-(2-tetrahydropyranyloxy)-2-[2-(p-toluenesulfonyloxy)ethoxy]ethane | 18.6 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(COCCOS(=O)(=O)C1=CC=C(C=C1)C)OC1OCCCC1 | C29H34O7S
